US09315521B2
2-{[(1-ethyl-1H-imidazol-2-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol dihydrochloride
To a mixture of 2-{[(1-ethyl-1H-imidazol-2-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (215 mg, 0.86 mmol) in MeOH (3 mL) was added 4 M HCl/dioxane (2 mL, 8.0 mmol). The mixture became clear, and a solid precipitated. The solvent was evaporated. The solid product was dried in vacuo, affording the title compound (275 mg, 99% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.38 (t, 3H, J=7.2 Hz), 2.16 (s, 3H), 4.29 (m, 2H), 4.73 (s, 2H), 6.17 (s, 1H), 7.61 (d, 1H, J=2.0 Hz), 7.15 (d, 1H, J=2.0 Hz); M+251.

reactant | 2-{[(1-ethyl-1H-imidazol-2-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 0.86 mmol, 215 mg | C(C)N1C(=NC=C1)CSC1=NC(=CC(=N1)O)C | C11H14N4OS
reactant | HCl dioxane | 8.0 mmol, 4 M, 2 mL | Cl.O1CCOCC1
solvent | MeOH | 3 mL | CO | CH4O
product | 2-{[(1-ethyl-1H-imidazol-2-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol dihydrochloride | 275 mg, 99% yield | Cl.Cl.C(C)N1C(=NC=C1)CSC1=NC(=CC(=N1)O)C | InChI=1S/C11H14N4OS.2ClH/c1-3-15-5-4-12-9(15)7-17-11-13-8(2)6-10(16)14-11;;/h4-6H,3,7H2,1-2H3,(H,13,14,16);2*1H
